US05231179
To a solution of 4,4,5,5-tetramethyloxazolidin -2-one (0.30 g; 2.01 mmol) in tetrahydrofuran (2.5 ml), a hexane solution of 1.57 N n-butyl lithium (1.50 ml; 2.3 mmol) was added at 0° C., and after 5 minutes, 2-bromopropionyl bromide (0.54 g; 2.5 mmol) was added thereto and followed by stirring at the same temperature for 10 minutes. A phosphate buffer (pH 7) (1.1 ml) was added thereto to decompose the excess reaction agent, and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a 5% aqueous solution of sodium bicarbonate and then brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give a residue, which was purified by silica gel column chromatography (benzene→benzene:ethyl acetate=95:5) to give 3-(2'-bromopropionyl)-4,4,5,5-tetramethyloxazolidin-2-one as a colorless solid.

reactant | 4,4,5,5-tetramethyloxazolidin -2-one | 2.01 mmol, 0.30 g | CC1(NC(OC1(C)C)=O)C | C7H13NO2
reactant | n-butyl lithium | 2.3 mmol, 1.57 N, 1.50 ml | C(CCC)[Li]
reactant | 2-bromopropionyl bromide | 2.5 mmol, 0.54 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | phosphate | 1.1 ml, pH 7 | P(=O)([O-])([O-])[O-]
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-(2'-bromopropionyl)-4,4,5,5-tetramethyloxazolidin-2-one | BrC(C(=O)N1C(OC(C1(C)C)(C)C)=O)C | C10H16BrNO3
